US05589492
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-mercaptopropanoic Acid
A solution of 5-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]benzyl]-2,4-thiazolidinedione (Eur. Patent Appl., Publication No. 0306228) (1.0 g) in 10% aqueous sodium hydroxide solution (25 mL) was heated at reflux under a nitrogen atmosphere for 1.75 hrs. The mixture was cooled, acidified to pH3 with concentrated hydrochloric acid and extracted with ethyl acetate (300 mL). The organic solution was washed with brine (100 mL), dried (MgSO4) and evaporated. The residue was redissolved in boiling ethyl acetate, filtered and allowed to cool and crystallise to afford the title compound, mp 154°-6° C.

reactant | 5-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]benzyl]-2,4-thiazolidinedione | 1.0 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C20H19N3O4S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 25 mL | [OH-].[Na+]
product | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-mercaptopropanoic Acid | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)O)S | C19H20N2O4S
